US07851634B2
b) 7-Bromoimidazo[1,5-a]pyridine-1-carbaldehyde
A solution of 4.93 g of 7-bromoimidazo[1,5-a]pyridine in 2.2 ml of dry N,N-dimethylformamide is cooled to 0-5° C. in an ice bath. Phosphorus oxychloride (5.37 g) is added dropwise at 0-5° C. and the reaction mixture is subsequently stirred at 100° C. over 1 hour. The reaction mixture is cooled and poured onto ice-water. The quenched solution is basified with 25% ammonium hydroxide solution and extracted with dichloromethane (3×200 ml). The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The title compound is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60 F).

reactant | 7-bromoimidazo[1,5-a]pyridine | 4.93 g | BrC1=CC=2N(C=C1)C=NC2 | C7H5BrN2
reactant | Phosphorus oxychloride | 5.37 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | N,N-dimethylformamide | 2.2 ml | CN(C=O)C | C3H7NO
product | 7-Bromoimidazo[1,5-a]pyridine-1-carbaldehyde | BrC1=CC=2N(C=C1)C=NC2C=O | C8H5BrN2O
